US06169107A
The reaction was carried out in a manner similar to Reference Example 12 a) except for using 5.11 g (29.9 mmol) of 4-bromo-3-methyl-2-nitrophenol, 6.30 g (27.2 mmol) of benzyl bromide, 8.26 g (59.7 mmol) of potassium carbonate and 150 ml of acetone. 3-Benzyloxy-6-bromo-2-nitrotoluene was thus obtained in the yield of 5.10 g (58.3%).

reactant | 4-bromo-3-methyl-2-nitrophenol | 29.9 mmol, 5.11 g | BrC1=C(C(=C(C=C1)O)[N+](=O)[O-])C | C7H6BrNO3
reactant | benzyl bromide | 27.2 mmol, 6.30 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 59.7 mmol, 8.26 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 3-Benzyloxy-6-bromo-2-nitrotoluene | C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)Br)C)[N+](=O)[O-] | C14H12BrNO3
